US08431563B2
A 100 mL round-bottomed flask was charged with ((3S)-3-methyl-4-(5-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)-2-pyrimidinyl)-1-piperazinecarboxylate (1.12 g, 2.87 mmol), 10 mL of EtOAc, and 3 mL of 4N HCl in dioxane. The mixture was heated at 80° C. for 3 h. The resulting white precipitate was collected by filtration to give 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol dihydrochloride (1.05 g)

reactant | (3S)-3-methyl-4-(5-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)-2-pyrimidinyl)-1-piperazinecarboxylate | 2.87 mmol, 1.12 g | C[C@H]1CN(CCN1C1=NC=C(C=N1)C(C(F)(F)F)(C)O)C(=O)[O-]
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 4N, 3 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol dihydrochloride | 1.05 g | Cl.Cl.FC(C(C)(O)C=1C=NC(=NC1)N1[C@H](CNCC1)C)(F)F | InChI=1S/C12H17F3N4O.2ClH/c1-8-5-16-3-4-19(8)10-17-6-9(7-18-10)11(2,20)12(13,14)15;;/h6-8,16,20H,3-5H2,1-2H3;2*1H/t8-,11?;;/m0../s1
